US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-methoxy-acetamide
From methoxyacetic acid, HATU and N-ethyldiisopropylamine in THF, then treatment with (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine. [α]D20=+24.9° (c=1.05, CHCl3), ES-MS m/e (%): 339 (M+H+, 100).

reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-methoxy-acetamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(COC)=O)OC | C15H18N2O5S
